US07973078B2
7.42 g of 4-methoxybenzylamine was dissolved in 70 mL of methylene chloride, and a solution (10 mL) of 23.2 g of bromoacetyl bromide in methylene chloride was added thereto at −10° C. To the reaction liquid was added dropwise a solution (10 mL) of 8.0 mL of triethylamine in methylene chloride at 0° C., followed by stirring at room temperature for 30 minutes. To the reaction liquid was added water under ice-cooling, followed by extraction with methylene chloride. The organic layer was washed with an aqueous saturated sodium hydrogen carbonate solution, and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=90:10 to 0:100) to obtain a product, which was recrystallized from ethyl acetate to obtain 6.11 g of 2-bromo-N-(4-methoxybenzyl)acetamide.

reactant | 4-methoxybenzylamine | 7.42 g | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | bromoacetyl bromide | 10 mL, 23.2 g | BrCC(=O)Br | C2H2Br2O
reactant | triethylamine | 10 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | methylene chloride | 70 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-N-(4-methoxybenzyl)acetamide | 6.11 g | BrCC(=O)NCC1=CC=C(C=C1)OC | C10H12BrNO2
